US07060827B2
In a manner analogous to the preparation of N2,N4-bis(3-carboxyphenyl)-5-fluoro-2,4-pyrimidinediamine, the reaction of N2,N4-bis[3-hydroxy-4-(methoxycarbonyl)phenyl]-5-fluoro-2,4-pyrimidinediamine (70 mg, 0.16 mmol) and NaOH (100 mg, 2.5 mmol) gave N2,N4-bis(3-hydroxy-4-carboxyphenyl)-5-fluoro-2,4-pyrimidinediamine (50 mg, 77%) as a white solid. 1H NMR (DMSO-d6): δ 7.21 (dd, J=1.5 and 8.7 Hz, 1H), 7.46–7.52 (m, 3H), 7.63 (d, J=8.7 Hz, 1H), 7.72 (d, J=8.7 Hz, 1H), 8.28 (d, J=3.3 Hz, 1H), 9.71 (s, 1H, NH), 9.79 (s, 1H, NH), 11.34 (br, 2H); 19F NMR(282 MHz, DMSO-d6): δ −161.10; LCMS: ret. time: 20.76 min.; purity: 84.65%; MS (m/e): 400.95 (MH+).

reactant | N2,N4-bis(3-carboxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C(=O)(O)C=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C(=O)O)F | C18H13FN4O4
reactant | N2,N4-bis[3-hydroxy-4-(methoxycarbonyl)phenyl]-5-fluoro-2,4-pyrimidinediamine | 0.16 mmol, 70 mg | OC=1C=C(C=CC1C(=O)OC)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)C(=O)OC)O)F | C20H17FN4O6
reactant | NaOH | 2.5 mmol, 100 mg | [OH-].[Na+]
product | N2,N4-bis(3-hydroxy-4-carboxyphenyl)-5-fluoro-2,4-pyrimidinediamine | 50 mg, 77% | OC=1C=C(C=CC1C(=O)O)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)C(=O)O)O)F | C18H13FN4O6
